US09062027B2
3.2 2-(2H-Indazol-2-yl)-N-[4-(methoxyamino)-3,4-dioxo-1-phenyl-2-butanyl]nicotinamide
To a solution of N-[3-hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide (1050 mg; 2.357 mmol) in DMSO (30 ml) 2-iodobenzoic acid (470 mg, 0.755 mmol) was added. After stirring for 4 hours at 30° C. additional 2-iodobenzoic acid (470 mg, 0.755 mmol) was added and stirring was continued for 3 hour at 30° C. and then overnight at room temperature. After cooling the reaction mixture to 15° C. a saturated aqueous solution of NaHCO3 (40 ml), water (40 ml) and dichloromethane (80 ml) were added. The organic layer was collected and the aqueous layer re-extracted twice with dichlormethane (CH2Cl2). The combined organic layers were then dried over MgSO4, filtered and concentrated to give 968 mg of a yellow-brown solid. Purification by chromatography over silica gel (eluent: CH2Cl2+0 to 10% (v/v) methanol) gave 800 mg of a raw product which was recrystallized from isopropanole yielding 456 mg of the title compound as a white solid.

reactant | N-[3-hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide | 2.357 mmol, 1050 mg | OC(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2C=CC=CC2=C1)=O)C(=O)NOC | C24H23N5O4
reactant | DMSO | 0.755 mmol, 30 ml, 470 mg | CS(=O)C | C2H6OS
reactant | 2-iodobenzoic acid | 0.755 mmol, 470 mg | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 2-(2H-Indazol-2-yl)-N-[4-(methoxyamino)-3,4-dioxo-1-phenyl-2-butanyl]nicotinamide | 968 mg | N=1N(C=C2C=CC=CC12)C1=C(C(=O)NC(CC2=CC=CC=C2)C(C(=O)NOC)=O)C=CC=N1 | C24H21N5O4
